US05565577
i. Preparation of Methyl Valerimidate Hydrochloride
A 10 gallon, glass-lined fixed reactor was charged with 7.0 kg (84.6 mol) of valeronitrile and 2.96 kg (92.2 mol, 1.1 eq) of methanol. The solution was stirred with cooling to about 5° C. under an atmosphere of nitrogen. A flow of hydrogen chloride gas from a gas cylinder was bubbled into the solution below the surface of the mixture at a rate such that the reaction temperature did not exceed 15° C. After about one hour, 3.67 kg (101 tool, 1.19 eq) of hydrogen chloride had been disbursed from the gas cylinder and addition was stopped. Stirring was continued for an additional 18 h at 0° C. Tert-butyl methyl ether (9.7 kg) was added to the suspension and stirring was continued for 3 h at 0° C. The slurry was then centrifuged under an atmosphere of nitrogen. After drying overnight under nitrogen and for several hours under reduced pressure at ambient temperature the product weighed 9.66 kg (76% yield uncorrected for purity) and had amp of 91°-92° C. The crude product was hygroscopic and was stored in sealed bottles under nitrogen at -5° C.

reactant | valeronitrile | 84.6 mol, 7.0 kg | C(CCCC)#N | C5H9N
reactant | methanol | 92.2 mol, 2.96 kg, 1.1 eq | CO | CH4O
reactant | hydrogen chloride | 3.67 kg, 1.19 eq | Cl | ClH
solvent | Tert-butyl methyl ether | 9.7 kg | COC(C)(C)C | C5H12O
product | Methyl Valerimidate Hydrochloride | 76% yield | Cl.C(CCCC)(OC)=N | InChI=1S/C6H13NO.ClH/c1-3-4-5-6(7)8-2;/h7H,3-5H2,1-2H3;1H
